US08664387B2
To a suspension of potassium tert-butoxide (4.25 g, 37.9 mmol) in 13 mL of THF at −10° C. under an atmosphere of nitrogen was added a solution of 5-nitroisoquinoline (3.00 g, 17.2 mmol) and ethyl chloroacetate (2.32 g, 18.9 mmol) in 18 mL of THF dropwise. After 3 h, water (30 mL) was added and the reaction was stirred at rt for 3 d. Potassium carbonate (5.95 g, 43.1 mmol) was added, and after 24 h, the mixture was heated to 40° C. After 24 h, additional potassium carbonate (1.19 g, 8.62 mmol) was added, and the reaction was heated to 50° C. for another 3 h, then cooled to rt. The mixture was concentrated in vacuo, azeotroped 3× with toluene, and redissolved in dichloromethane. The organic solution was washed 3× with water, then with brine, dried over sodium sulfate, filtered, and concentrated in vacuo to provide 6-methyl-5-nitroisoquinoline that gave proton NMR spectra consistent with theory and a mass ion (ES+) of 189.2 for [M+H]+.

reactant | potassium tert-butoxide | 37.9 mmol, 4.25 g | CC(C)([O-])C.[K+]
reactant | 5-nitroisoquinoline | 17.2 mmol, 3.00 g | [N+](=O)([O-])C1=C2C=CN=CC2=CC=C1 | C9H6N2O2
reactant | ethyl chloroacetate | 18.9 mmol, 2.32 g | ClCC(=O)OCC | C4H7ClO2
reactant | Potassium carbonate | 43.1 mmol, 5.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 8.62 mmol, 1.19 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 13 mL | C1CCOC1 | C4H8O
solvent | THF | 18 mL | C1CCOC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | 6-methyl-5-nitroisoquinoline | CC=1C(=C2C=CN=CC2=CC1)[N+](=O)[O-] | C10H8N2O2
